US07326799B2
Synthesis of (2S-trans)-N-[(1S,2S)-2-hydroxycyclohexane-1-yl]-3-butyloxiranecarboxamide (Compound of the Formula I)
Under ice-cooling, to 20 ml of an anhydrous tetrahydrofuran solution containing 2.3 g (7 mmol) of (2S-trans)-3-butyl-oxirane carboxylic acid.dicyclohexylammonium salt was added 2 ml of an anhydrous tetrahydrofuran solution containing 844 mg (7 mmol) of pivaloyl chloride, and the mixture was stirred at the same temperature for 15 minutes. Moreover, the temperature of the reaction mixture was returned to room temperature and the mixture was further stirred for 2 hours. After removing insoluble material in the reaction mixture by filtration, the filtrate was added to 20 ml of an anhydrous tetrahydrofuran solution containing 806 mg (7 mmol) of (1S,2S)-2-aminocyclohexanol under ice-cooling, and the resulting mixture was stirred at room temperature for 2 hours. Under reduced pressure, the reaction mixture was concentrated and ethyl acetate was added to the concentrate, and the resulting mixture was washed successively with a 10% aqueous potassium hydrogen sulfate solution, a saturated aqueous sodium hydrogen carbonate solution, and then, a saturated NaCl solution. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to obtain 1.69 g (Yield: 100%) of the title compound.

reactant | (2S-trans)-3-butyl-oxirane carboxylic acid | 7 mmol, 2.3 g | C(CCC)[C@@H]1[C@H](O1)C(=O)O | C7H12O3
reactant | dicyclohexylammonium salt | CCCCC(C(CC[C@H]1[C@@H](CC(=O)[C@@H]1CCCCCCC(=O)O)O)O)(F)F.C1CCC(CC1)NC2CCCCC2
reactant | pivaloyl chloride | 7 mmol, 844 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | (1S,2S)-2-aminocyclohexanol | 7 mmol, 806 mg | N[C@@H]1[C@H](CCCC1)O | C6H13NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2S-trans)-N-[(1S,2S)-2-hydroxycyclohexane-1-yl]-3-butyloxiranecarboxamide | 1.69 g, Yield: 100% | O[C@@H]1[C@H](CCCC1)NC(=O)[C@H]1O[C@@H]1CCCC | C13H23NO3
